US06664269B2
A stirred suspension of 3-(4-methoxybenzyl)isocoumarin (0.35 g, 1.3 mmol) in 15% methanolic ammonia solution (100 ml) was heated at 150° C. in a 300 ml autoclave for 5 hours then cooled to ambient temperature. The resulting solid was collected by filtration, washed with a little cold methanol and dried in vacuo to give 3-(4-methoxybenzyl)-1-isoquinolinone (0.04 g, 12%) as a solid; m.pt. 216-218° C.; δH 3.80 (3H, s), 3.85 (2H, s), 6.25 (1H, s), 6.90 (2H, d, J=8.2 Hz), 7.30 (2H, d), 7.30-7.60 (3H, m), 8.20 (1H, d), 11.20 (1H, br s); m/z (M+H)+. 266 (100% purity).

reactant | 3-(4-methoxybenzyl)isocoumarin | 1.3 mmol, 0.35 g | COC1=CC=C(CC=2OC(=O)C3=CC=CC=C3C2)C=C1 | C17H14O3
reactant | ammonia | 100 ml | N | H3N
product | 3-(4-methoxybenzyl)-1-isoquinolinone | 0.04 g, 12% | COC1=CC=C(CC=2NC(C3=CC=CC=C3C2)=O)C=C1 | C17H15NO2
